US08580957B2
A mixture of phenylmethyl[(4-{(2S,4R)-1-acetyl-4-[(5-fluoro-2-pyridinyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}phenyl)methyl]methylcarbamate (for a preparation see intermediate 79) (55 mg, 0.100 mmol) and palladium (10% w/w on charcoal, 50% wet, 6.35 mg, 0.060 mmol) in ethanol (9 mL) was stirred under hydrogen (1 bar) at room temperature for 17 h then filtered through celite. The insoluble material was rinsed with ethanol (20 mL) and the combined filtrate and washings were concentrated in vacuo. Purification of the residue with MDAP (modifier: ammonium bicarbonate) gave a white solid which was dissolved in MeOH (0.4 mL), then treated with HCl (1.25M in MeOH, 38.3 μL, 0.0478 mmol). The resulting mixture was concentrated in vacuo to give (2S,4R)-1-acetyl-N-(5-fluoro-2-pyridinyl)-2-methyl-6-{4-[(methylamino)methyl]phenyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (23 mg, 48%) as a pale yellow solid.

reactant | phenylmethyl[(4-{(2S,4R)-1-acetyl-4-[(5-fluoro-2-pyridinyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}phenyl)methyl]methylcarbamate | C1(=CC=CC=C1)COC(N(C)CC1=CC=C(C=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC1=NC=C(C=C1)F)=O | C33H33FN4O3
reactant | HCl | 0.0478 mmol, 1.25M, 38.3 μL | Cl | ClH
solvent | ethanol | 9 mL | C(C)O | C2H6O
solvent | MeOH | 0.4 mL | CO | CH4O
catalyst | palladium | 0.060 mmol, 6.35 mg | [Pd] | Pd
product | (2S,4R)-1-acetyl-N-(5-fluoro-2-pyridinyl)-2-methyl-6-{4-[(methylamino)methyl]phenyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 23 mg, 48% | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CNC)NC1=NC=C(C=C1)F)C | InChI=1S/C25H27FN4O.ClH/c1-16-12-23(29-25-11-9-21(26)15-28-25)22-13-20(8-10-24(22)30(16)17(2)31)19-6-4-18(5-7-19)14-27-3;/h4-11,13,15-16,23,27H,12,14H2,1-3H3,(H,28,29);1H/t16-,23+;/m0./s1
